US05075451
To a solution of Phe-Leu-OMe (0.69 mmol) in CH2Cl2 (1 mL) was added dimethyl propylene oxide (0.075 mL). The reaction mixture was stirred at room temperature overnight, however, no change was observed. Two additional mLs of the oxide were added and then the reaction mixture was transferred with EtOH (excess) to a closed tube reactor, heated to 100° C. for 5 hours, stirred at room temperature for 2 days, and concentrated to yield 0.24 g of N-(2-hydroxy-2-methylpropyl)-L-phenylalanyl-L-leucine methyl ester.

reactant | Phe-Leu-OMe | 0.69 mmol | N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)OC | C16H24N2O3
reactant | dimethyl propylene oxide | 0.075 mL | CC1(C(C)O1)C | C5H10O
reactant | EtOH | CCO | C2H6O
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | N-(2-hydroxy-2-methylpropyl)-L-phenylalanyl-L-leucine methyl ester | 0.24 g | COC([C@@H](NC([C@@H](NCC(C)(C)O)CC1=CC=CC=C1)=O)CC(C)C)=O | C20H32N2O4
